US06323373B1
Synthesis of 4-Hexyloxybenzeneboronic Acid
In an apparatus which had been baked out and blanketed with argon, magnesium turnings (1.89 g; 78 mmol) were treated with a crystal of iodine and covered with dried THF. A few drops of 4-hexyloxybromobenzene were then added to the solution without stirring. The Grignard reaction began very quickly and, while stirring, the 4-hexyloxybromobenzene (total amount: 20 g; 78 mmol) was then added dropwise at such a rate that the mixture boiled gently. During this addition, the mixture was diluted with a little THF (total amount: about 100 ml). The mixture was refluxed for 3 hours (only a few flakes of magnesium remaining in the solution) and subsequently allowed to cool. The Grignard solution was transferred to a 250 ml dropping funnel in a countercurrent of protective gas and added dropwise to a solution of trimethyl borate (8.9 g; 9.6 ml; 86 mmol) in 50 ml of dry THF while stirring at −70° C., resulting in formation of a precipitate. The reaction mixture was allowed to warm to RT overnight and was then introduced while stirring into a mixture of 100 g of ice and 3 ml of concentrated sulfuric acid. The organic phase was separated off, the aqueous phase was extracted 3 times with 100 ml each time of chloroform and the combined organic phases were evaporated. The crude product was subsequently recrystallized from hexane. Product: colorless, wax-like solid (11.28 g; 66%); melting point: 84-87° C.

reactant | magnesium | 78 mmol, 1.89 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-hexyloxybromobenzene | 78 mmol, 20 g | C(CCCCC)OC1=CC=C(C=C1)Br | C12H17BrO
reactant | trimethyl borate | 86 mmol, 9.6 ml, 8.9 g | B(OC)(OC)OC | C3H9BO3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
catalyst | 4-hexyloxybromobenzene | A few drops | C(CCCCC)OC1=CC=C(C=C1)Br | C12H17BrO
solvent | THF | about 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-Hexyloxybenzeneboronic Acid | C(CCCCC)OC1=CC=C(C=C1)B(O)O | C12H19BO3
